US04833136
7-(2-Hydroxyethylamino)-3,5-dimethyl-1H-pyrazolo[4,3-b]pyridine (E2)
A mixture of ethanolamine (1.0 g, 0.016 mole) and 7-chloro-3,5-dimethyl-1H-pyrazolo[4,3-b]pyridine (1.0 g) in dry xylene (20 ml) was heated under reflux for 48 h. After cooling, the brown oil in the reaction vessel solidified. The solvent was then decanted off and the solid washed several times with xylene. The brown solid was dissolved in aqueous methanol and the pH adjusted to pH 8-9 with 10% sodium carbonate solution. The resulting solid was filtered off, dried and recrystallised from chloroform/methanol to give the title compound as a white solid (0.750 g, 71%), m.p. 225°-230° C. (Found: C, 58.29; H, 6.89; N, 27.06. C10H14N4O requires C, 58.18; H, 6.84; N, 27.17%).

reactant | ethanolamine | 0.016 mole, 1.0 g | C(O)CN | C2H7NO
reactant | 7-chloro-3,5-dimethyl-1H-pyrazolo[4,3-b]pyridine | 1.0 g | ClC1=C2C(=NC(=C1)C)C(=NN2)C | C8H8ClN3
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(2-Hydroxyethylamino)-3,5-dimethyl-1H-pyrazolo[4,3-b]pyridine | 0.750 g, 71% | OCCNC1=C2C(=NC(=C1)C)C(=NN2)C | C10H14N4O
